US08022205B2
4-(4-Methyl-3-nitro-phenyl)-morpholine
To 4-bromo-1-methyl-2-nitro-benzene (500 mg), tris (dibenzylideneacetone) dipalladium (120 mg) and potassium phosphate (928 mg), morpholine (242 mg), S-Phos (95 mg) and deaerated DMF (5 ml) were added, followed by irradiation of ultrasonic wave for 5 minutes. This was stirred at 110° C. for 5 hours. After cooling to room temperature, water was added, followed by extraction with ethyl acetate, and the organic layer was washed with brine, and dried over magnesium sulfate. After the magnesium sulfate was filtered off, the solvent was distilled off under reduced pressure, followed by purification by silica gel column chromatography (hexane/ethyl acetate=4/1), to obtain the desired compound as an orange solid (478 mg, 93%).

reactant | 4-bromo-1-methyl-2-nitro-benzene | 500 mg | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | potassium phosphate | 928 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | morpholine | 242 mg | N1CCOCC1 | C4H9NO
reactant | S-Phos | 95 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | tris (dibenzylideneacetone) dipalladium | 120 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-3-nitro-phenyl)-morpholine | 478 mg, 93% | CC1=C(C=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C11H14N2O3
